US04267191
Preparation of Ammonium furfuryldithiocarbamate
Furfurylamine (4.85 g) is added dropwise over 50 minutes to a vigorously stirred mixture of 3.75 ml of CS2 and 8.3 ml of 29.7% aqueous ammonia cooled in ice and methyl alcohol. The cooling bath is removed and the thick orange suspension stirred 16 hours more, filtered and air dried to yield 3.11 g (32.7% yield) of desired product characterized by m.p. equal to 88° C. dec.

reactant | Furfurylamine | 4.85 g | C(C1=CC=CO1)N | C5H7NO
reactant | CS2 | 3.75 ml | C(=S)=S | CS2
reactant | ammonia | 8.3 ml | N | H3N
solvent | methyl alcohol | CO | CH4O
product | Ammonium furfuryldithiocarbamate | 3.11 g, 32.7% yield | C(C1=CC=CO1)NC([S-])=S.[NH4+] | InChI=1S/C6H7NOS2.H3N/c9-6(10)7-4-5-2-1-3-8-5;/h1-3H,4H2,(H2,7,9,10);1H3
